US06921763B2
To a 0° C. mixture of N2-{4-[4-amino-1-(2-hydroxyethyl)-1H -pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide (0.343 g, 0.750 mmol) and pyridine (7.5 mL) was added methanesulfonyl chloride (0.14 mL, 1.8 mmol) dropwise over 30 sec. The reaction mixture was stirred at 0° C. for 2 h then ice water (10 mL) was added. The precipitate was collected by filtration and dried in vacuo to afford 2-[4-amino-3-(3-methoxy-4-{[(1-methyl-1H-2-indolyl)carbonyl]amino}phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]ethyl methanesulfonate as a beige solid (0.268 g, 0.500 mmol): 1H NMR (d6-DMSO, 400 MHz): δH 9.44 (1H, s), 8.30 (1H, s), 8.13 (1H, d, J=8.0 Hz), 7.70 (1H, d, J=8.0 Hz), 7.59 (1H, d, J=8.4 Hz), 7.31-7.38 (4H, m), 7.15 (1H, t, J=7.6 Hz), 4.70 (3H, s), 4.04 (3H, s), 3.96 (3H, s), 3.37 (2H, obscured by water peak), and 3.12 (2H, s); RP-HPLC (Hypersil C18, 5 μm, 100 Å, 15 cm; 5%-100% acetonitrile-0.1 M ammonium acetate over 15 min, 1 mL/min). Rt 11.22 min. MS: M+536.2.

reactant | N2-{4-[4-amino-1-(2-hydroxyethyl)-1H -pyrazolo[3,4-d]pyrimidin-3-yl]-2-methoxyphenyl}-1-methyl-1H-2-indolecarboxamide | 0.750 mmol, 0.343 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)CCO | C24H23N7O3
reactant | methanesulfonyl chloride | 1.8 mmol, 0.14 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 7.5 mL | N1=CC=CC=C1 | C5H5N
product | 2-[4-amino-3-(3-methoxy-4-{[(1-methyl-1H-2-indolyl)carbonyl]amino}phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]ethyl methanesulfonate | 0.500 mmol, 0.268 g | CS(=O)(=O)OCCN1N=C(C=2C1=NC=NC2N)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC | C25H25N7O5S
